data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_60527_1,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:3]\[H:9])[N:6]([H:10])[H:11])[C:7](=[C:8]([H:19])[H:20])[H:12])([H:13])([H:14])[H:18]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:3]([C:7](=[C:8]([H:19])[H:20])[H:12])[H:9])[N:6]([H:10])[H:11])([H:13])([H:14])[H:18],67.04712000000853
MR_285784_1,[C:1](\[C:3]([C:2]([N:4]([H:10])[H:11])([O:8][H:13])[H:9])=[C:7]([H:16])[H:17])(=[N:5]/[H:12])[N:6]([H:14])[H:15]>>[C:1]([C:3]([C:2]([N:4]([H:10])[H:11])=[O:8])=[C:7]([H:16])[H:17])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:9],49.65093749998516
MR_629419_0,[C:1]([C:2]([O:9][H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:6]([O:7][C:3]([H:14])([H:15])[H:16])[O:8][H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])([N:6]([C:2]([O:9][H:11])([H:12])[H:13])[O:8][H:10])[O:7][C:3]([H:14])([H:15])[H:16],72.12610499999059
MR_176870_0,[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])([O:8][H:10])[H:12])([C:4]([O:7][N:5]([H:13])[H:14])=[O:9])([N:6]([H:15])[H:16])[H:11]>>[C:1]([C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([O:8][H:10])[H:12])=[O:9])([N:6]([H:15])[H:16])([O:7][N:5]([H:13])[H:14])[H:11],51.630700000016105
MR_497271_0,[C@@:1]1([N:4]([H:10])[H:11])([H:9])[C@@:6]([C:3]([N:5]([H:12])[H:13])=[C:8]([H:16])[H:17])([H:14])[C@:7]1([C:2]([H:18])([H:19])[H:20])[H:15]>>[C:1]([C:3]([N:5]([H:12])[H:13])=[C:8]([H:16])[H:17])([N:4]([H:10])[H:11])(/[C:6](=[C:7](\[C:2]([H:18])([H:19])[H:20])[H:15])[H:14])[H:9],72.64630249999698
MR_443246_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])([O:7][H:9])/[N:8]=[C:4](/[C:3]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([O:7][H:9])=[N:8]/[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13],61.59602750000289
MR_418807_0,[C@:1]12([C:4]([H:11])([H:12])[H:13])[C@:2]([H:8])([C@:3]1([C:5](=[O:7])[H:10])[H:9])[O:6]2>>[C@:1]1([C:4]([H:11])([H:12])[H:13])([C:5](=[O:7])[H:10])[C:3]([H:9])=[C:2]([H:8])[O:6]1,48.45868750003476
MR_396365_1,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:7]([H:18])([H:25])[H:26])[C:8]([C:6]([H:22])([H:23])[H:24])=[O:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:9][H:11]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:8]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:7]([H:18])([H:25])[H:26])=[O:10])[O:9][H:11],67.9074225000123
MR_440924_0,[C:1](=[C:2]([C:3]([N:4]([H:12])[H:13])=[O:8])[O:7][H:11])([O:5][H:9])[O:6][H:10]>>[C:1]1([O:5][H:9])([O:6][H:10])[C:2]([O:7][H:11])=[C:3]([N:4]([H:12])[H:13])[O:8]1,56.02445500001608
MR_451400_2,[C:1]([C:2]([H:16])([H:17])[H:18])([C:5]1([C:3]([N:6]([H:10])[H:11])=[O:9])/[C:4](=[N:7]/[H:12])[N:8]1[H:13])([H:14])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:4](/[C:5]([C:3]([N:6]([H:10])[H:11])=[O:9])=[N:8]/[H:13])=[N:7]/[H:12])([H:14])[H:15],59.887972500035005
MR_607730_2,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4](=[C:3]([O:6][H:10])[O:7][H:9])[N:5]([H:13])[H:14])([O:8][H:11])[H:12]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3](=[C:4](\[N:5]([H:13])[H:14])[O:6][H:10])[O:7][H:9])([O:8][H:11])[H:12],60.97229249997255
MR_576062_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])=[O:8])[O:6][O:7][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C@@:4]([N:5]([H:10])[H:11])([O:6][O:7][H:9])[O:8]1,68.82608250001141
MR_303221_0,[C:1]([N:2]([C:3]([O:5][H:8])=[O:7])[N:4]([H:10])[H:11])([O:6][H:9])([H:12])[H:13]>>[C:1]([O:6][H:9])([O:7]/[C:3](=[N:2]/[N:4]([H:10])[H:11])[O:5][H:8])([H:12])[H:13],65.30078750003028
MR_359349_2,[C:1]1([C:3]([H:16])([H:17])[H:18])([N:7]([H:12])[H:13])[C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([O:8][N:6]([H:10])[H:11])[O:9]1>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:5]([O:8][N:6]([H:10])[H:11])=[O:9])[N:7]([H:12])[H:13],19.21091250000728
MR_618012_0,[C:1]([N:2]([H:10])[H:11])(/[C:3](=[N:6]/[O:4][H:7])[H:12])([O:5][H:8])[H:9]>>[C:1](\[N:2]([H:10])[H:11])(=[C:3](/[N:6]([O:4][H:7])[H:9])[H:12])[O:5][H:8],71.8638099999751
MR_479135_1,[C:1]([N:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])([O:7][H:9])([H:14])[H:15]>>[C:1]([O:7][H:9])([N:8](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:3]\[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])[H:15],64.7190950000008
MR_463445_1,[C:1]([C:4]([C:2]([H:14])([H:16])[H:17])[C:3]([N:5]([H:9])[H:10])[O:8][C:6](=[C:7]([H:18])[H:19])[H:11])([H:12])([H:13])[H:15]>>[C:1]([C:4]([C:2]([H:14])([H:16])[H:17])([C@:3]1([N:5]([H:9])[H:10])[C:6](=[C:7]([H:18])[H:19])[O:8]1)[H:11])([H:12])([H:13])[H:15],52.41193750000548
MR_187795_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]\[H:10])([C:4](=[C:5]([H:15])[H:16])[H:11])([O:6][H:8])[H:9]>>[C:1](=[C:4](\[C:5](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]\[H:10])([H:15])[H:16])[H:11])(\[O:6][H:8])[H:9],70.95205249999424
